US04910201
Synthesis of 5-(4-chlorobenzyloxy)-2-(4-chlorophenyl)-3(2H)-pyridazinone (Compound No. 305)
In 50 ml of N,N-dimethylformamide were dissolved 2.0 g (9.0 m mol) of 2-(4-chlorophenyl)-5-hydroxy-3(2H)-pyridazinone and 1.5 g (9.3 m mol) of p-chlorobenzyl chloride, and thereto was added 1.7 g of anhydrous potassium carbonate. The reaction mixture was heated under stirring on an oil bath at 100°-120° C. for one hour. Then, the procedure in Synthesis Example 13 were repeated to give 2.5 g of the intended compound.

reactant | 2-(4-chlorophenyl)-5-hydroxy-3(2H)-pyridazinone | 2.0 g | ClC1=CC=C(C=C1)N1N=CC(=CC1=O)O | C10H7ClN2O2
reactant | p-chlorobenzyl chloride | 1.5 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(4-chlorobenzyloxy)-2-(4-chlorophenyl)-3(2H)-pyridazinone | 2.5 g | ClC1=CC=C(COC2=CC(N(N=C2)C2=CC=C(C=C2)Cl)=O)C=C1 | C17H12Cl2N2O2
